US07517873B2
Cyclopentylaminomethyl-cyclopropanecarboxylic acid methyl ester was prepared from 1-aminomethyl-cyclopropanecarboxylic acid methyl ester following the method similar to the preparation of 3-cyclopentylamino-2,2-dimethyl-propanoic acid methyl ester above.

reactant | 1-aminomethyl-cyclopropanecarboxylic acid methyl ester | COC(=O)C1(CC1)CN | C6H11NO2
reactant | 3-cyclopentylamino-2,2-dimethyl-propanoic acid methyl ester | COC(C(CNC1CCCC1)(C)C)=O | C11H21NO2
product | Cyclopentylaminomethyl-cyclopropanecarboxylic acid methyl ester | COC(=O)C1(CC1)CNC1CCCC1 | C11H19NO2
